US08202873B2
N-(2-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-ethyl)-methanesulfonamide hydrochloride
Dissolve 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (307 mg, 1.0 mmol) in N,N-dimethylacetamide (4 mL). Add potassium carbonate (331 mg, 2.4 mmol), 4-sulfonylaminoethyl benzene boronic acid (292 mg, 1.2 mmol), tetrakis(triphenylphosphine)palladium(0) (0.0050 g, 0.0058 mmol), then water (2 mL) and degas with nitrogen for 10 min. Heat at 120° C. for 20 hr., then purify by SCX-2® chromatography washing with methanol. Elute with 2 M ammonia in methanol and concentrate. Recrystallize from DMSO:methanol (1:1), filter and wash with diethyl ether, to give a whitish powder. Dissolve the powder in acetonitrile and convert to the hydrochloride salt by adding 2 M aq HCl solution. Add water and lyophilize to give the title compound as a yellow powder (365 mg, 71%). MS (ES): m/z=470 [M+H]+.

reactant | 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.0 mmol, 307 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | C14H19ClN6
reactant | potassium carbonate | 2.4 mmol, 331 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-sulfonylaminoethyl benzene boronic acid | 1.2 mmol, 292 mg | S(=O)(=O)=NCCC1=CC=C(C=C1)B(O)O | C8H10BNO4S
reactant | HCl | 2 M | Cl | ClH
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0058 mmol, 0.0050 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 2 mL | O | H2O
product | N-(2-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-ethyl)-methanesulfonamide hydrochloride | 365 mg, 71% | Cl.CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CCNS(=O)(=O)C | InChI=1S/C23H31N7O2S.ClH/c1-18-21(16-26-28(18)2)17-29-12-14-30(15-13-29)23-22(24-10-11-25-23)20-6-4-19(5-7-20)8-9-27-33(3,31)32;/h4-7,10-11,16,27H,8-9,12-15,17H2,1-3H3;1H
